US06136823
Synthesis of 6-Fluoro-1-(2,4-difluoro-5-methylaminophenyl)-8-methyl-7-methylamino-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
Pyridine (300 mg) and a 40% aqueous solution (150 mg) of methylamine were added to 6,7-difluoro-1-(2,4-difluoro-5-methylaminophenyl)-8-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (80 mg), and the mixture was heated and stirred at 40° C. for 3 days. After the reaction mixture was allowed to cool, diethyl ether was added, followed by stirring. A supernatant liquid was removed, and ethanol (1 ml) was added to the residue to disperse solids therein. The solids were collected by filtration and washed with ethanol and dried to obtain the title compound (20 mg) as a pale yellow powder.

reactant | Pyridine | 300 mg | N1=CC=CC=C1 | C5H5N
reactant | methylamine | CN | CH5N
reactant | 6,7-difluoro-1-(2,4-difluoro-5-methylaminophenyl)-8-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 80 mg | FC=1C=C2C(C(=CN(C2=C(C1F)C)C1=C(C=C(C(=C1)NC)F)F)C(=O)O)=O | C18H12F4N2O3
solvent | diethyl ether | C(C)OCC | C4H10O
product | 6-Fluoro-1-(2,4-difluoro-5-methylaminophenyl)-8-methyl-7-methylamino-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 20 mg | FC=1C=C2C(C(=CN(C2=C(C1NC)C)C1=C(C=C(C(=C1)NC)F)F)C(=O)O)=O | C19H16F3N3O3
